US09079866B2
2-(4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperazin-1-yl)ethanol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-(4-((2-bromophenyl)sulfonyl)piperazin-1-yl)ethanol. MS (ESI): mass calcd. for C22H24FN5O3S, 457.16; m/z found, 458.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.38 (m, 1H), 8.21 (d, J=1.5, 1H), 8.16-8.13 (m, 1H), 7.98 (m, 1H), 7.79-7.73 (m, 1H), 7.68-7.63 (m, 1H), 7.49-7.45 (m, 1H), 7.36-7.30 (m, 2H), 3.86-3.78 (m, 2H), 3.66-3.32 (m, 4H), 3.24-3.20 (m, 2H), 3.15-2.72 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-(4-((2-bromophenyl)sulfonyl)piperazin-1-yl)ethanol | BrC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)CCO | C12H17BrN2O3S
product | 2-(4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperazin-1-yl)ethanol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)CCO)F | C22H24FN5O3S
